* board_aux.cir — SPICE subckt for the carrier gated-+3V3_AUX rail + PCA9306
* I2C isolator: the passive network around the SY6280 load switch and the
* PCA9306 (supply bypass, ILIM-set, EN pulldown, status-LED divider, the
* isolator VREF bypass + EN/bus pull-ups).
*
* CARRIER-LOCAL: the subckt pins are the carrier's REAL rail/ground/port nets
* (not an abstract interface). The SY6280 (load switch) and PCA9306 (passive
* FET bus switch) have no useful analog small-signal model here; this subckt
* captures the PASSIVE network the sheet adds, which is what the local test and
* a board-level .op reason about. Internal SIGNAL nodes (EN_AUX, BS_ISET_AUX,
* BS_PG_AUX, AUX_ISO_EN) are local subckt nodes, not pins.
*
* Values mirror carrier/subsystems/board_aux/board_aux.py one-for-one
* (parse_si compatible):
*   C1 100n  SY6280 IN bypass        (V3V3    -> GND)
*   C2 100n  SY6280 OUT bypass       (V3V3_AUX-> GND)
*   C3 100n  PCA9306 VREF1 bypass    (V3V3_SC -> GND)
*   C4 100n  PCA9306 VREF2 bypass    (V3V3_AUX-> GND)
*   R1 13k   SY6280 ILIM set (~523mA)(BS_ISET_AUX -> GND, internal)
*   R2 100k  EN_AUX pulldown (def OFF)(EN_AUX -> GND, internal)
*   R3 330R  status-LED series        (BS_PG_AUX -> GND, internal)
*   R4 100k  PCA9306 EN pull-up       (V3V3_AUX -> AUX_ISO_EN, internal)
*   R5 4k7   AUX SCL pull-up          (V3V3_AUX -> AUX_I2C_SCL)
*   R6 4k7   AUX SDA pull-up          (V3V3_AUX -> AUX_I2C_SDA)
*   D1 red   status LED               (BS_PG_AUX -> V3V3_AUX)
*
* Pin order: V3V3 V3V3_AUX GND V3V3_SC STM32_I2C2_SCL STM32_I2C2_SDA
*            AUX_I2C_SCL AUX_I2C_SDA
* (rails first, then the always-on + isolated I2C port pairs; '+' rail marks are
*  stripped to make legal SPICE node names.)

.subckt board_aux V3V3 V3V3_AUX GND V3V3_SC STM32_I2C2_SCL STM32_I2C2_SDA AUX_I2C_SCL AUX_I2C_SDA

* supply bypass: SY6280 IN/OUT + PCA9306 VREF1/VREF2 (one 100n each)
C1 V3V3 GND 100n
C2 V3V3_AUX GND 100n
C3 V3V3_SC GND 100n
C4 V3V3_AUX GND 100n

* SY6280 current-limit set: ILIM = 6800 / 13k ~ 523 mA
R1 BS_ISET_AUX GND 13k

* manual-enable pulldown: EN_AUX held low (rail OFF) until SW1 closes +3V3 onto
* it; the DIP switch is an external mechanical contact, not modeled here
R2 EN_AUX GND 100k

* status LED (lit = AUX enabled): D1 from the gated rail through R3 to GND
D1 V3V3_AUX BS_PG_AUX DLED
R3 BS_PG_AUX GND 330R

* PCA9306 EN pulled to the gated rail: switch OPENS (isolated) when AUX is down
R4 V3V3_AUX AUX_ISO_EN 100k

* AUX-side I2C bus pull-ups to the gated rail (PCA9306 needs pulls both sides)
R5 V3V3_AUX AUX_I2C_SCL 4k7
R6 V3V3_AUX AUX_I2C_SDA 4k7

.model DLED D(Is=1e-18 N=2 Rs=2)
.ends board_aux

* Standalone smoke harness (ngspice -b runs it; harmless under any board use):
* a 1 V source through 1k onto V3V3_AUX settles to 1 V at DC across the bypass.
.subckt _src P
V1 vin 0 1
R1 vin P 1k
.ends _src
.end
